US04083983
To a solution of sodium (1.65 g) in ethanol (75 ml) was added cysteamine hydrochloride (2.9 g) and after stirring for 5 minutes a solution of 2-chloromethyl-3-methoxypyridine hydrochloride (4.5 g) in ethanol (75 ml) was added over 25 minutes. The mixture was stirred for 2 hours at 15° and the sodium chloride was filtered off and the filtrate was evaporated to give 2-[2-aminoethylthiomethyl]-3-methoxypyridine (4.6 g) as a colourless oil.

reactant | sodium | 1.65 g | [Na] | Na
reactant | cysteamine hydrochloride | 2.9 g | Cl.NCCS
reactant | 2-chloromethyl-3-methoxypyridine hydrochloride | 4.5 g | Cl.ClCC1=NC=CC=C1OC
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 2-[2-aminoethylthiomethyl]-3-methoxypyridine | 4.6 g | NCCSCC1=NC=CC=C1OC | C9H14N2OS
